US08802696B2
A solution of concentrated sulfuric acid (500 g, 5.0 mol) in a 3 L round bottom flask was cooled to 0° C. with an ice bath. To the flask was added dropwise a solution of 2-(3-([1,2,4]triazolo[1,5-a]pyridin-6-yl)benzylamino)-1-(3,4-dichlorophenyl)ethanol (79 g, 0.191 mol) in DCM (250 mL). The addition was finished in 30 min and the reaction temperature was controlled in the range of 10-20° C. DCM was blown away with nitrogen gas during the addition. The evaporation of DCM helped to lower the reaction temperature. The mixture solution was stirred at RT overnight. HPLC indicated no remaining starting material. The HPLC area ratio of 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline and 5-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline was 75:25. The reaction mixture was cooled to 0° C. Isopropanol (2 L) was added to the solution slowly, maintaining temperature <0° C. The solid (desired isomer 92% purity) was obtained by filtration. The solid was then dissolved in AcOEt (1 L) and the pH adjusted to 10 with NH4OH. The water layer was extracted with EtOAc twice. The combined organic layers were washed with water, dried over Na2SO4 and concentrated. The residue was dissolved in EtOH (250 mL) and then 1.1 eq of methanesulfonic acid (20.20 g, 0.21 mol) was added and the solution stirred overnight. The resulting precipitate methanesulfonic acid salt (98% purity) was filtered. This was dissolved in water and the pH adjusted with NH4OH to 10, then extracted with AcOEt twice. The combined extracts were washed with water and dried over Na2SO4. After removal of solvent, 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline was obtained in an amorphous state (40.8 g, 54% yield): m/z=395.0 [M+1]; 1H NMR (400 MHz, CHLOROFORM-D) 8 ppm 3.05 (dd, J=12.00, 8.00 Hz, 1 H), 3.40 (dd, J=12.00, 4.00 Hz, 1 H), 4.05-4.25 (m, 3 H), 6.96 (m, 2 H), 7.25-7.35 (m, 4 H), 7.70-7.80 (m, 2 H), 8.32 (s, 1H), 8.74 (s, 1 H).

reactant | sulfuric acid | 5.0 mol, 500 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(3-([1,2,4]triazolo[1,5-a]pyridin-6-yl)benzylamino)-1-(3,4-dichlorophenyl)ethanol | 0.191 mol, 79 g | N=1C=NN2C1C=CC(=C2)C=2C=C(CNCC(O)C1=CC(=C(C=C1)Cl)Cl)C=CC2 | C21H18Cl2N4O
reactant | NH4OH | [NH4+].[OH-]
reactant | methanesulfonic acid | 0.21 mol, 20.20 g, 1.1 eq | CS(=O)(=O)O | CH4O3S
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | AcOEt | 1 L | CCOC(=O)C | C4H8O2
product | 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline | 54% yield | N=1C=NN2C1C=CC(=C2)C2=CC=C1C(CNCC1=C2)C2=CC(=C(C=C2)Cl)Cl.N=2C=NN1C2C=CC(=C1)C1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)Cl)Cl | 2C21H16Cl2N4
